US04654348
EXAMPLE 31: 2-Phenyl-3-n-heptyloxy-7-ethoxycarbonylmethylthio-pyrazolo[4,3-d]pyrimidine
1 g of 2-phenyl-3-hydroxy-7-ethoxycarbonylmethylthio-pyrazolo[4,3-d]pyrimidine was dissolved in 10 ml of DMF, and 0.5 g of anhydrous potassium carbonate and 0.65 g of bromoheptane were added thereto. The mixture was stirred at room temperature for 48 hours. Then, after confirming the completion of the reaction by means of TLC, an aqueous hydrochloric acid solution was added. The reaction mixture was extracted with chloroform. The chloroform layer was washed with an aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate, and then chloroform was distilled off. The residue was purified by silica gel chromatography (60% chloroform-hexane), whereby the desired product was obtained.

reactant | 2-phenyl-3-hydroxy-7-ethoxycarbonylmethylthio-pyrazolo[4,3-d]pyrimidine | 1 g | C1(=CC=CC=C1)N1N=C2C(N=CN=C2SCC(=O)OCC)=C1O | C15H14N4O3S
reactant | potassium carbonate | 0.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromoheptane | 0.65 g | BrCCCCCCC | C7H15Br
reactant | hydrochloric acid | Cl | ClH
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 2-Phenyl-3-n-heptyloxy-7-ethoxycarbonylmethylthio-pyrazolo[4,3-d]pyrimidine | C1(=CC=CC=C1)N1N=C2C(N=CN=C2SCC(=O)OCC)=C1OCCCCCCC | C22H28N4O3S
